US06716863B2
2-[1-[4-[4-[[2-[(E)-2-(2-methylphenyl)ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-imidazol-2-yl]-1-ethanol
Using 4-[4-[2-(2-hydroxyethyl)-1H-imidazol-1-yl]butyl]phenol (153 mg) and (E)-4-chloromethyl-2-[2-(2-methylphenyl)ethenyl]oxazole (151 mg), the same reaction as Example 1 was carried out to yield the titled compound (167 mg) as colorless crystals.

reactant | 4-[4-[2-(2-hydroxyethyl)-1H-imidazol-1-yl]butyl]phenol | 153 mg | OCCC=1N(C=CN1)CCCCC1=CC=C(C=C1)O | C15H20N2O2
reactant | (E)-4-chloromethyl-2-[2-(2-methylphenyl)ethenyl]oxazole | 151 mg | ClCC=1N=C(OC1)\C=C\C1=C(C=CC=C1)C | C13H12ClNO
product | 2-[1-[4-[4-[[2-[(E)-2-(2-methylphenyl)ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-imidazol-2-yl]-1-ethanol | 167 mg | CC1=C(C=CC=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCN1C(=NC=C1)CCO | C28H31N3O3
